US04515624
2-(Dimethylaminosulfonyloxy)benzenesulfonamide
To 6.8 g (0.04 mole) 2-hydroxybenzenesulfonamide in 100 ml methylene chloride was added 4.4 g (0.044 mole) triethylamine and 6.3 g (0.044 mole) dimethylsulfamoyl chloride in 5 ml methylene chloride, keeping the reaction temperature <10° C. The mixture was then warmed to room temperature and stirred 72 hours. The reaction mixture was then diluted with 100 ml methylene chloride washed with 100 ml water, 100 ml 1% HCl and dried over MgSO4. The solvent was evaporated to give a crude yellow oil that slowly solidified on standing. The solids were then triturated with hexanes and filtered to give 6.1 g of a tan solid, m.p. 88°-89° C.

reactant | 2-hydroxybenzenesulfonamide | 0.04 mole, 6.8 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | triethylamine | 0.044 mole, 4.4 g | C(C)N(CC)CC | C6H15N
reactant | dimethylsulfamoyl chloride | 0.044 mole, 6.3 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-(Dimethylaminosulfonyloxy)benzenesulfonamide | 6.1 g | CN(S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)N)C | C8H12N2O5S2
